US07642264B2
5-{3-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-thiophene-2-sulfonic acid amide
The title compound was prepared from 4-(4-chloro-phenyl)-N-hydroxy-6-trifluoromethyl-pyrimidine-2-carboxamidine (example C.1) (0.16 g, 0.5 mmol) and commercially available 2-sulfamoyl-thiophene-5-carboxylic acid [CAS-No. 7353-87-9] (104 mg, 0.5 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.085 g, 35%). MS (ISN) 486.1 [(M−H)−]; mp 236.5° C.

reactant | 4-(4-chloro-phenyl)-N-hydroxy-6-trifluoromethyl-pyrimidine-2-carboxamidine | 0.5 mmol, 0.16 g | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C(=N)NO | C12H8ClF3N4O
reactant | 2-sulfamoyl-thiophene-5-carboxylic acid | 0.5 mmol, 104 mg | S(N)(=O)(=O)C=1SC(=CC1)C(=O)O | C5H5NO4S2
product | 5-{3-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl}-thiophene-2-sulfonic acid amide | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=NOC(=N1)C1=CC=C(S1)S(=O)(=O)N | C17H9ClF3N5O3S2
